US07754727B2
D. (1-Bromomethyl-cyclopropylmethyl)-benzene
To a solution of the title C compound, (1-benzyl-cyclopropyl)-methanol (0.8 g, 4.93 mmol), pyridine (994 uL, 12.3 mmol) and CBr4 (1.8 g, 5.42 mmol) in methylene chloride (25 mL) is added triphenylphosphine (1.8 g, 6.9 mmol), with stirring at 0° C. After completion of the reaction, the mixture is poured into a saturated aqueous solution of NaHCO3. The aqueous layer is extracted twice with methylene chloride and the combined organic extracts are dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue is taken up into ether and the triphenylphosphine oxide precipitate is filtered off. The filtrate is concentrated under reduced pressure and purified by flash column chromatography on silica gel (hexane/EtOAc 9/1) to afford the title compound: TLC, Rf (hexane/AcOEt 99/1)=0.54. Rt (HPLC, Nucleosil C18, 10:90-100:0 CH3CN/H2O+0.1% TFA within 5 min, then 100% CH3CN+0.1% TFA): 6.41 min.

reactant | (1-benzyl-cyclopropyl)-methanol | 4.93 mmol, 0.8 g | C(C1=CC=CC=C1)C1(CC1)CO | C11H14O
reactant | pyridine | 12.3 mmol, 994 uL | N1=CC=CC=C1 | C5H5N
reactant | CBr4 | 5.42 mmol, 1.8 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 6.9 mmol, 1.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
product | (1-Bromomethyl-cyclopropylmethyl)-benzene | BrCC1(CC1)CC1=CC=CC=C1 | C11H13Br
